US05153203
Ethyl 1-cyclopropyl-6-fluoro-7-(3-oxazolidinyl)-1,4-dihydro-4-oxoquinoline-3-carboxylate (Compound No. 53)
A mixture of 0.67 g of ethyl 1-cyclopropyl-6-fluoro-7-(2-hydroxyethylamino)-1,4-dihydro-4-oxoquinoline-3-carboxylate, 0.08 g of p-toluenesulfonic acid, 2.08 g of diethoxymethane and 20 ml of acetonitrile was stirred for 3 hours under reflux. After the reaction mixture was allowed to cool down, 100 ml of chloroform was added to the reaction mixture. The resultant mixture was successively washed with 5% aq. sodium carbonate solution and saturated saline, dried over anhydrous magnesium sulfate and then concentrated.

reactant | ethyl 1-cyclopropyl-6-fluoro-7-(2-hydroxyethylamino)-1,4-dihydro-4-oxoquinoline-3-carboxylate | 0.67 g | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)NCCO)F)=O)C(=O)OCC | C17H19FN2O4
reactant | p-toluenesulfonic acid | 0.08 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | diethoxymethane | 2.08 g | C(C)OCOCC | C5H12O2
reactant | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | Ethyl 1-cyclopropyl-6-fluoro-7-(3-oxazolidinyl)-1,4-dihydro-4-oxoquinoline-3-carboxylate | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)N1COCC1)F)=O)C(=O)OCC | C18H19FN2O4
